US06458953B1
Hexaethyleneglycol mono-tosylate
25 g (88.5 mmol) of hexaethyleneglycol was stirred at 0° C. in 200 mL of CH2Cl2, and 14.3 mL of pyridine (177 mmol; 2 eq.) was added to the mixture followed by 17.4 g (88.5 mmol) of tosylchloride. The reaction mixture was stirred at room temperature for 24 hours and partitioned between 400 ml of 1N HCl and 200 ml of CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated to provide 31 g of a light yellow oil. Purification by silica gel chromatography (CH2Cl2/MeOH) provided 15.32 g (40%) of 1 as a light yellow oil: 1H NMR (CDCl3) δ2.45 (s, 3H), 3.55-3.75 (m, 22H), 4.15 (t, 2H), 7.35 (d, 2H), 7.80 (d, 2H); HRMS (FAB) calculated for C19H33O9S (M+H): 437.1845. Found: 437.1834.

reactant | hexaethyleneglycol | 88.5 mmol, 25 g | C(COCCOCCOCCOCCOCCO)O | C12H26O7
reactant | pyridine | 177 mmol, 14.3 mL, 2 eq. | N1=CC=CC=C1 | C5H5N
reactant | tosylchloride | 88.5 mmol, 17.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Hexaethyleneglycol mono-tosylate | 31 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOCCOCCOCCOCCOCCO | C19H32O9S
